US04522948
A solution of 2-(cyclohexylmethyl)hexan-1-ol (1.3 g) in 10 ml of dry pyridine under nitrogen was cooled to 0° C. and treated dropwise with stirring with 1.0 g of methanesulfonyl chloride. After 1 hour the mixture was poured into water and extracted with ethyl acetate. The extracts were washed twice with dilute hydrochloric acid, once with brine and dried (MgSO4). Evaporation of the solvent gave an oil, 2-(cyclohexylmethyl)hex-1-yl methanesulfonate, which was used directly in the next step.

reactant | 2-(cyclohexylmethyl)hexan-1-ol | 1.3 g | C1(CCCCC1)CC(CO)CCCC | C13H26O
reactant | methanesulfonyl chloride | 1.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-(cyclohexylmethyl)hex-1-yl methanesulfonate | CS(=O)(=O)OCC(CCCC)CC1CCCCC1 | C14H28O3S
